US05099021
N-(3-trifluoromethylphenyl)-N',N'-dimethylurea
Using the amount of 3-trifluoromethylaniline and N,N-dimethylurea indicated in Example 4, but using the mother liquor from Example 4 instead of pure 1,2,4-trichlorobenzene as the diluent and using 11.4 g (0.25 mol) of dimethylamine, 4.8 g of N-(3-trichloromethylphenyl)-N',N'-dimethylurea, i.e. 83% of theory, having a melting point of 160° to 161° C. and a purity of 99.7% were obtained in the manner described in Example 2.

reactant | 3-trifluoromethylaniline | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | N,N-dimethylurea | CN(C(=O)N)C | C3H8N2O
reactant | 1,2,4-trichlorobenzene | ClC1=C(C=C(C=C1)Cl)Cl | C6H3Cl3
reactant | dimethylamine | 0.25 mol, 11.4 g | CNC | C2H7N
reactant | N-(3-trichloromethylphenyl)-N',N'-dimethylurea | 4.8 g | ClC(C=1C=C(C=CC1)NC(=O)N(C)C)(Cl)Cl | C10H11Cl3N2O
product | N-(3-trifluoromethylphenyl)-N',N'-dimethylurea | FC(C=1C=C(C=CC1)NC(=O)N(C)C)(F)F | C10H11F3N2O
